US06756395B2
To a solution of 7-methanesulfonylamino-benzofuran-4-carboxylic acid methyl ester (6.42 g, 23.8 mmole) in anhydrous tetrahydrofuran (155 mL) was added a solution of diisobutylaluminum hydride (1.5M solution in toluene, 80 mL, 120 mmole) slowly at 0° C. under nitrogen. The ice bath was removed and the reaction mixture was stirred at room temperature for three hours. Methanol (30 mL) was added slowly at 0° C. The reaction mixture was partitioned between ethyl acetate and 0.5 N hydrochloric acid. The organic extract was washed with brine, dried (anhydrous sodium sulfate), and concentrated under reduced pressure. The residue was purified by flash column chromatography over silica gel eluting with 50 to 80% ethyl acetate in hexane to give N-(4-Hydroxymethyl-benzofuran-7-yl)-methanesulfonamide as a solid (5.64 g, 98%). 1H NMR (DMSO-d6) δ: 3.07 (s, 3H), 4.73 (d, 2H, J=5.70 Hz), 5.30 (t, 1H J=5.7 Hz), 7.10 (d, 1H, J=2.2 Hz), 7.21 (s, 2H), 8.05 (d, 1H, J=2.2 Hz), 9.78 (s, 1H). M−H 240.

reactant | 7-methanesulfonylamino-benzofuran-4-carboxylic acid methyl ester | 23.8 mmole, 6.42 g | COC(=O)C=1C=CC(=C2C1C=CO2)NS(=O)(=O)C | C11H11NO5S
reactant | diisobutylaluminum hydride | 120 mmole, 1.5M, 80 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 155 mL | O1CCCC1 | C4H8O
product | N-(4-Hydroxymethyl-benzofuran-7-yl)-methanesulfonamide | 5.64 g, 98% | OCC1=CC=C(C2=C1C=CO2)NS(=O)(=O)C | C10H11NO4S
